US08563742B2
The methylketone starting material for Example 60 in the table below was prepared from trans-4-(4-chlorophenyl)cyclohexyl-1-ethanone (1 g, 4.2 mmol) in two steps. Hydrogenation of the aromatic ring with concomitant reduction of the aromatic ketone to the alcohol and concomitant hydrogenolysis of the carbon-chlorine bond was accomplished using hydrogen gas (H2 pressure=50 psi) in a resealable glass pressure vessel equipped with a manometer and pressure valve. The reaction was stirred under H2 pressure for 2 days in MeOH:AcOH (1:1; 6 mL) using PtO2 (200 mg) as the catalyst to effect the desired transformation. Filtration through Celite® and evaporative workup gave the crude alcohol product (900 mg) which was used as-is in the preparation of the corresponding ketone by oxidation with PCC (6.3 mmol, 1.5 eq), the reaction being effected by stirring overnight in DCM containing molecular sieves (about 100 mg) at RT. The [4-(cyclohexyl)-cyclohexyl]methylketone product (700 mg) was isolated after workup and filtration through a silica gel column to remove impurities.

reactant | methylketone | CC(=O)C | C3H6O
reactant | trans-4-(4-chlorophenyl)cyclohexyl-1-ethanone | 4.2 mmol, 1 g | ClC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C(C)=O | C14H17ClO
reactant | hydrogen | [H][H] | H2
reactant | PCC | 6.3 mmol, 1.5 eq | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | MeOH AcOH | 6 mL | CO.CC(=O)O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | PtO2 | 200 mg | O=[Pt]=O
product | [4-(cyclohexyl)-cyclohexyl]methylketone | 700 mg | C1(CCCCC1)C1CCC(CC1)C(=O)C | C14H24O
